US09259426B2
Synthesis of 4-amino-6-chloro-quinazoline
A solution of 2-amino-5-chlorobenzonitrile (1.07 g, 7.0 mmol) in formamide (20 ml) was heated at 180° C. for 6 hours. After cooling to room temperature, water (30 ml) was added to the reaction mixture. The precipitate was collected by filtration, washed with water and dried over P2O5, yielding the title compound as a grey solid (1.2 g, yield: 95%) which was characterized by its mass spectrum as follows: MS (m/z): 180 ([M+H]+, 100).

reactant | 2-amino-5-chlorobenzonitrile | 7.0 mmol, 1.07 g | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
reactant | water | 30 ml | O | H2O
reactant | formamide | 20 ml | C(=O)N | CH3NO
product | 4-amino-6-chloro-quinazoline | 1.2 g, yield: 95% | NC1=NC=NC2=CC=C(C=C12)Cl | C8H6ClN3
